US05030726
Preparation of 2-(p-vinylphenyl)ethyloxycarbonylpropyleneurea
Phenoxycarbonylpropyleneurea 8.2 g (37.3 mmol) and hydroxyethylstyrene 5 g (37.3 mmol) were dissolved into dioxane 90 ml by heating. Into the solution obtained was added dibutyltin dilaurate 0.5 g, and the mixture was heated for 6 hours with stirring. After the reaction the solution was concentrated to give a solid mass, which was then purified by column chromatography. The title compound 3.9 g (yield: 40%) was obtained, which was analyzed to:

reactant | Phenoxycarbonylpropyleneurea | 37.3 mmol, 8.2 g | O(C1=CC=CC=C1)C(=O)CC(C)NC(=O)N | C11H14N2O3
reactant | hydroxyethylstyrene | 37.3 mmol, 5 g | OCCC=CC1=CC=CC=C1 | C10H12O
reactant | dioxane | 90 ml | O1CCOCC1 | C4H8O2
catalyst | dibutyltin dilaurate | 0.5 g | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
product | 2-(p-vinylphenyl)ethyloxycarbonylpropyleneurea | 3.9 g, yield: 40% | C(=C)C1=CC=C(C=C1)CCOC(=O)CC(C)NC(=O)N | C15H20N2O3
